US04835166
6-(3-Phenylpropyl)amino-2-benzoxazolone Hydrochloride
A methanol solution (40 ml) containing 3.06 g of 6-(3-Phenylpropylamino)-2-benzoxazolone was combined with an ethereal solution saturated with gaseous hydrogen chloride (40 ml) at ice-bath temperature. The resulting solid was collected by filtration, washed with ether and dried to give the title compound (3.470 g).

reactant | 6-(3-Phenylpropylamino)-2-benzoxazolone | 3.06 g | C1(=CC=CC=C1)CCCNC1=CC2=C(NC(O2)=O)C=C1 | C16H16N2O2
reactant | hydrogen chloride | 40 ml | Cl | ClH
solvent | methanol | 40 ml | CO | CH4O
product | 6-(3-Phenylpropyl)amino-2-benzoxazolone Hydrochloride | 3.470 g | Cl.C1(=CC=CC=C1)CCCNC1=CC2=C(NC(O2)=O)C=C1 | InChI=1S/C16H16N2O2.ClH/c19-16-18-14-9-8-13(11-15(14)20-16)17-10-4-7-12-5-2-1-3-6-12;/h1-3,5-6,8-9,11,17H,4,7,10H2,(H,18,19);1H
